* source STACK
M_M104         QQ QQBAR N104355 0 Mbreakn  
+ L=.18u  
+ W=.36u         
M_M102         N104297 QQBAR VDD VDD Mbreakp  
+ L=.18u  
+ W=.36u         
C_C11         0 QQ  20p  
M_M96         N103669 N103551 N103775 0 Mbreakn  
+ L=.18u  
+ W=.36u         
M_M89         QQ N104481 N103845 0 MbreakN  
+ L=.18u  
+ W=.72u         
M_M80         N105219 N104553 VDD VDD Mbreakp  
+ L=.18u  
+ W=.36u         
M_M94         N103717 N103551 VDD VDD Mbreakp  
+ L=.18u  
+ W=.36u         
M_M98         N104001 N103845 VDD VDD Mbreakp  
+ L=.18u  
+ W=.36u         
M_M99         QQBAR N103845 N104001 VDD Mbreakp  
+ L=.18u  
+ W=.36u         
M_M101         N104355 QQBAR 0 0 Mbreakn  
+ L=.18u  
+ W=.36u         
M_M91         N103551 N104553 N105219 VDD Mbreakp  
+ L=.18u  
+ W=.36u         
M_M103         QQ QQBAR N104297 VDD Mbreakp  
+ L=.18u  
+ W=.36u         
M_M100         QQBAR N103845 N104059 0 Mbreakn  
+ L=.18u  
+ W=.36u         
M_M97         N104059 N103845 0 0 Mbreakn  
+ L=.18u  
+ W=.36u         
M_M79         N105273 N104553 0 0 Mbreakn  
+ L=.18u  
+ W=.36u         
M_M88         N103669 N104481 N104553 VDD MbreakP  
+ L=.18u  
+ W=.72u         
V_V58         N104481 0  
+PULSE 0 1.8V 0u 1n 1n 2u 4u
M_M90         N103845 N104481 N103669 VDD MbreakP  
+ L=.18u  
+ W=.72u         
M_M93         N103775 N103551 0 0 Mbreakn  
+ L=.18u  
+ W=.36u         
M_M92         N103551 N104553 N105273 0 Mbreakn  
+ L=.18u  
+ W=.36u         
V_V57         N105173 0  
+PULSE 0 1.8V 0u 1n 1n 3u 6u
M_M87         N104553 N104481 N105173 0 MbreakN  
+ L=.18u  
+ W=.72u         
M_M95         N103669 N103551 N103717 VDD Mbreakp  
+ L=.18u  
+ W=.36u         
V_V51         VDD 0 1.8Vdc
.MODEL MBREAKP PMOS
.MODEL MBREAKN NMOS  
.tran 2e-0 20e-6 0e-6
.control
run 
PLOT V(QQ)

.endc
.end 